US04051252
0.3 mol of 3-amino-6-chloroindazole in 250 ml of pyrocarbonic acid diethyl ester are heated, while stirring, to 50° C for about 5 hours, until the evolution of CO2 has ceased. After cooling, 250 ml of diethyl ether are added and 90% of theory of 3-amino-6-chloroindazole-2-carboxylic acid ethyl ester are isolated, by filtration, in the form of yellow crystals. Melting point: 163°-165° C.

reactant | 3-amino-6-chloroindazole | 0.3 mol | NC1=NNC2=CC(=CC=C12)Cl | C7H6ClN3
reactant | CO2 | C(=O)=O | CO2
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | pyrocarbonic acid diethyl ester | 250 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
product | 3-amino-6-chloroindazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C=C(C=CC2=C1N)Cl | C10H10ClN3O2
